US05688798
A solution of 3.2 g (0.017 mol) of 1-(2-methoxy-phenyl)-piperazine in 100 ml of tetrahydrofuran was treated with 11.6 ml (0.084 mol) of triethylamine and 6.1 g (0.017 mol) of 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide and the mixture was stirred at room temperature under argon for 16 hours. The suspension obtained was suction filtered and the filtrate was completely freed from the solvents. The residue was chromatographed over silica gel with acetonitrile/methanol 1:1 as the eluent and digested in diethyl ether. 2.0 g (38%) of 5-[4-(2-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine were obtained as white crystals; m.p. 195°-196°.

reactant | 1-(2-methoxy-phenyl)-piperazine | 0.017 mol, 3.2 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | triethylamine | 0.084 mol, 11.6 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide | 0.017 mol, 6.1 g | Br.Br.BrCC=1C(=NC(=NC1)N)N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-[4-(2-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine | 2.0 g, 38% | COC1=C(C=CC=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | C16H22N6O
